US07378438B2
First the hydroxyl groups of Salicyl alcohol were protected with acetone in refluxing benzene with the catalysis of para-toluenesulfonic acid to give 2,2-Dimethyl-4H-benzo[1,3]dioxine in quantitive yield. Friedel-craft acylation of this compound with AlCl3 and acetyl chloride in refluxing chloroform afforded 1-(2,2-dimethyl-4H-benzo[1,3]dioxin-6-yl)-ethanone in good yield. This was further brominated in chloroform with the catalysis of benzoyl peroxide to give 2-bromo-1-(2,2-dimethyl-4H-benzo[1,3]dioxin-6-yl)-ethanone, which was reduced to the chiral or nonchiral bromohydrine with borane and borane/oxazaborolidine, respectively. The title epoxide was generated by the addition of the above bromohydrine to a suspension of NaH in THF, as described previously.

reactant | Salicyl alcohol | C(C=1C(O)=CC=CC1)O | C7H8O2
reactant | acetone | CC(=O)C | C3H6O
reactant | para-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2,2-Dimethyl-4H-benzo[1,3]dioxine | CC1(OC2=C(CO1)C=CC=C2)C | C10H12O2
